US07659264B2
Step D. 2-Phenyl-1,3,8-triazaspiro[4.5]dec-1-en-4-one
To a solution of tert-butyl 4-oxo-2-phenyl-1,3,8-triazaspiro[4.5]dec-1-ene-8-carboxylate (45 mg, 0.137 mmol) in dichloromethane (5 mL) was added trifluoroacetic acid (2 mL). After 2 h the reaction was concentrated to give the title compound. MS: m/z=230.1 (M+1).

reactant | tert-butyl 4-oxo-2-phenyl-1,3,8-triazaspiro[4.5]dec-1-ene-8-carboxylate | 0.137 mmol, 45 mg | O=C1NC(=NC12CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C18H23N3O3
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-Phenyl-1,3,8-triazaspiro[4.5]dec-1-en-4-one | C1(=CC=CC=C1)C1=NC2(C(N1)=O)CCNCC2 | C13H15N3O
